* C:\Users\Tom\Documents\LEGO STEM\ElectromagnetLego\LTSpice Simulation\SwitchedModeController.asc
V1 V_MAG 0 12
M2 N002 N006 0 0 IPP052NE7N3
R4 P001 N002 2.5
L1 R_SENSE_L P001 34m
D1 N002 R_SENSE_H MBR735
L2 V_MAG R_SENSE_H 1n
R5 N006 PWM_IN 63
R6 0 PWM_IN 5k
R7 R_SENSE_H R_SENSE_L 0.007
V3 V_SUPPLY 0 5
XU1 0 N001 N003 0 N005 N004 0 V_SUPPLY PWM_IN PWM_IN V_SUPPLY V_SUPPLY 0 P002 N001 0 TL494
C1 N005 0 0.1µ
R1 N004 0 22k
R8 P002 N001 50k
V2 N003 0 SINE(2 2 2 5m)
.model D D
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.mos
* Line Inductance
* Electromagnet
.tran 0 1 0 uic
.include TL494.txt
.lib TL494.txt
.backanno
.end
